US08912186B2
6) (Z)-Ethyl 5-(6-hydroxynaphthalen-2-yl)-3-(naphthalen-2-yl)pent-2-enoate
A solution of ((Z)-ethyl 5-(6-(methoxymethoxy)naphthalen-2-yl)-3-(naphthalen-2-yl)pent-2-enoate (0.35 g, 0.80 mmol) in methanol (10 mL) was treated with 10% HCl (2 mL) and the resulting mixture was refluxed for 2 h. After cooling the solvent was removed, the residue was extracted with ethyl acetate (3×) and dried with MgSO4. Then the crude product was concentrated to obtain the product; yellow oil; yield: 0.32 g (quant, without further purification);

reactant | (Z)-ethyl 5-(6-(methoxymethoxy)naphthalen-2-yl)-3-(naphthalen-2-yl)pent-2-enoate | 0.80 mmol, 0.35 g | COCOC=1C=C2C=CC(=CC2=CC1)CC/C(=C/C(=O)OCC)/C1=CC2=CC=CC=C2C=C1 | C29H28O4
reactant | HCl | 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (Z)-Ethyl 5-(6-hydroxynaphthalen-2-yl)-3-(naphthalen-2-yl)pent-2-enoate | OC=1C=C2C=CC(=CC2=CC1)CC/C(=C/C(=O)OCC)/C1=CC2=CC=CC=C2C=C1 | C27H24O3
